US04610981
N-[4-[[[3-(1H-Imidazol-1-yl)propyl]amino]sulfonyl]phenyl]acetamide
A mixture of 1.25 g of 1H-imidazol-1-propanamine in 25 ml of water was stirred at room temperature then 2.34 g of N-acetylsulfanilyl chloride was added and stirring was continued for 20 hours resulting in a clear solution. With the addition of 4 ml of 5N sodium hydroxide the solution turned milky and resulted in the separation of an oil. The addition of dichloromethane resulted in the formation of a suspended precipitate which was collected by filtration and gave 2.67 g of the desired compound as tan crystals, mp 178°-180° C.

reactant | 1H-imidazol-1-propanamine | 1.25 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | N-acetylsulfanilyl chloride | 2.34 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | N-[4-[[[3-(1H-Imidazol-1-yl)propyl]amino]sulfonyl]phenyl]acetamide | 2.67 g | N1(C=NC=C1)CCCNS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C14H18N4O3S
